US04140770
Twenty-four and four-tenths grams of 3,6-dimethylphenol and 26.6 grams of aluminum chloride are dissolved in 250 mls chlorobenzene and 48.9 grams of 3,3-diphenylpropionic acid chloride, dissolved in 150 mls chlorobenzene, are added while stirring. The stirring is continued for several days at 100° C. The chlorobenzene is evaporated in vacuo, the residue is mixed with ice and ether and washed several times with water. After drying with sodium sulfate, the ether is evaporated. Fifteen and one-tenth grams of 4-hydroxy-3,6-dimethyl-β,β-diphenylpropiophenone are obtained.

reactant | 3,6-dimethylphenol | CC=1C=C(C(=CC1)C)O | C8H10O
reactant | aluminum chloride | 26.6 grams | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | chlorobenzene | 250 mls | ClC1=CC=CC=C1 | C6H5Cl
reactant | chlorobenzene | 150 mls | ClC1=CC=CC=C1 | C6H5Cl
solvent | 3,3-diphenylpropionic acid chloride | 48.9 grams | C1(=CC=CC=C1)C(CC(=O)Cl)C1=CC=CC=C1 | C15H13ClO
product | 4-hydroxy-3,6-dimethyl-β,β-diphenylpropiophenone | OC1=CC=C(C(=C1)C)C(CC(=O)C1=CC=CC=C1)(C1=CC=CC=C1)C | C23H22O2
